US07056918B2
5-(1-Isobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-4-m-tolyl-1H-imidazole-2-carbonitrile
1-Isobutyl-3-methyl-5-(5-m-tolyl-2-trifluoromethyl-3H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one (prepared as described previously using the method described for example 63 and Lombardino, J. G.; Wiseman, E. H. J. Med. Chem. 1974, 17(11), 1182–1188, 20 mg, 0.05 mmol) was suspended in 5% aqueous ammonium hydroxide solution (4.7 mL). The suspension was stirred for 5 days, after which time the reaction was concentrated in vacuo. The resulting material was purified by LC (Waters Symmetry C8, acetonitrile/water 40% to 100%) to afford 8 mg of the title compound as a white solid. MS (M+1)=386.2

reactant | 1-Isobutyl-3-methyl-5-(5-m-tolyl-2-trifluoromethyl-3H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one | C(C(C)C)N1C(N(C2=C1C=CC(=C2)C=2NC(=NC2C=2C=C(C=CC2)C)C(F)(F)F)C)=O | C23H23F3N4O
reactant | ammonium hydroxide | 4.7 mL | [OH-].[NH4+]
product | 5-(1-Isobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-4-m-tolyl-1H-imidazole-2-carbonitrile | 8 mg | C(C(C)C)N1C(N(C2=C1C=CC(=C2)C2=C(N=C(N2)C#N)C=2C=C(C=CC2)C)C)=O | C23H23N5O
